US06498159B1
9.83 g of tert-butyl 4-allyl-4-hydroxy-1-piperidinecarboxylate was dissolved in 60 ml tetrahydrofuran/water (9:1), a solution (2.5 wt %, 2 ml) of osmium tetraoxide in tert-butyl alcohol and 6.68 g of N-methylmorpholine-N-oxide were added thereto, and the mixture was stirred at room temperature overnight. The reaction solution was evaporated, and the resulting residue was partitioned into ethyl acetate and water, washed with brine and dried over magnesium sulfate. After filtration, the solvent was evaporated, and the resulting residue was purified by silica gel column chromatography (ethyl acetate/methanol) to give 9.11 g of tert-butyl 4-(2,3-dihydroxypropyl)-4-hydroxy-1-piperidinecarboxylate.

reactant | tert-butyl 4-allyl-4-hydroxy-1-piperidinecarboxylate | 9.83 g | C(C=C)C1(CCN(CC1)C(=O)OC(C)(C)C)O | C13H23NO3
reactant | N-methylmorpholine-N-oxide | 6.68 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | tetrahydrofuran water | 60 ml | O1CCCC1.O
solvent | tert-butyl alcohol | C(C)(C)(C)O | C4H10O
catalyst | osmium tetraoxide | 2 ml | [Os](=O)(=O)(=O)=O
product | tert-butyl 4-(2,3-dihydroxypropyl)-4-hydroxy-1-piperidinecarboxylate | 9.11 g | OC(CC1(CCN(CC1)C(=O)OC(C)(C)C)O)CO | C13H25NO5
